US05034408
2.0 g (0.027 mol) of glycine are dissolved in 7 ml of 4 N NaOH and 2,2-dichloro-1-methylcyclopropanecarbonyl chloride and 6.5 ml of 4 N NaOH solution are added in portions at 5 to 10° C., while cooling with ice, the pH being kept>8. The mixture is subsequently stirred for 30 minutes, the aqueous phase is extracted twice with ether and acidified to about pH 2 with 1 N HCl and the precipitate formed is filtered off with suction. After drying, 4.5 g (74% of theory) of N-(2,2-dichloro-1-methylcyclopropanoyl)-glycine of melting point 139-140° C. are obtained.

reactant | glycine | 0.027 mol, 2.0 g | NCC(=O)O | C2H5NO2
reactant | 2,2-dichloro-1-methylcyclopropanecarbonyl chloride | ClC1(C(C1)(C(=O)Cl)C)Cl | C5H5Cl3O
solvent | NaOH | 4 N, 7 ml | [OH-].[Na+]
solvent | NaOH | 4 N, 6.5 ml | [OH-].[Na+]
product | N-(2,2-dichloro-1-methylcyclopropanoyl)-glycine | 4.5 g, 74% | ClC1(C(C1)(C(=O)NCC(=O)O)C)Cl | C7H9Cl2NO3
